US07429665B2
4-[4-Pyridin-4-yl-1-(2,2,2-trifluoro-ethyl)-1H-pyrazol-3-yl]-phenol
Following the procedure for the preparation of 4-(1-Methyl4-pyridin4-yl-1H-pyrazol-3-yl)-phenol but substituting 4-[3-(4-Benzyloxy-phenyl)-1-(2,2,2-trifluoro-ethyl)-1H-pyrazol-4-yl]-pyridine provided the title compound. MS: (M+H m/z=320.1)

reactant | 4-(1-Methyl4-pyridin4-yl-1H-pyrazol-3-yl)-phenol | CN1N=C(C(=C1)C1=CC=NC=C1)C1=CC=C(C=C1)O | C15H13N3O
reactant | 4-[3-(4-Benzyloxy-phenyl)-1-(2,2,2-trifluoro-ethyl)-1H-pyrazol-4-yl]-pyridine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NN(C=C1C1=CC=NC=C1)CC(F)(F)F | C23H18F3N3O
product | 4-[4-Pyridin-4-yl-1-(2,2,2-trifluoro-ethyl)-1H-pyrazol-3-yl]-phenol | N1=CC=C(C=C1)C=1C(=NN(C1)CC(F)(F)F)C1=CC=C(C=C1)O | C16H12F3N3O
